US07951810B2
Step b: (2S,3R,4R,5R)-2,4-Diacetoxy-5-sulfamoyloxymethyl-tetrahydro-furan-3-yl acetate
The title compound was prepared from (2S,3R,4R,5R)-2,4-diacetoxy-5-hydroxymethyl-tetrahydro-furan-3-yl acetate by reaction with chlorosulfonamide following a procedure analogous to that described in Example 43, step f.

reactant | (2S,3R,4R,5R)-2,4-diacetoxy-5-hydroxymethyl-tetrahydro-furan-3-yl acetate | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)CO)OC(C)=O | C11H16O8
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
product | (2S,3R,4R,5R)-2,4-Diacetoxy-5-sulfamoyloxymethyl-tetrahydro-furan-3-yl acetate | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COS(N)(=O)=O)OC(C)=O | C11H17NO10S
